US05880121
3-(4-(2-Hydroxyethyl)-1-piperazinyl)-4,5-dihydronaphth[1,2-c]isoxazole
A stirred mixture of 3-chloro-4,5-dihydronaphth[1,2-c]isoxazole (3.0 g, 14.63 mmol), 1-(2-hydroxyethyl)-piperazine (17.95 ml, 146.3 mmol) and K2O3 (4.1 g, 29.3 mmol) in 18 ml of N-methlypyrrolidinone under N2 was lowered into an oil bath preheated to 150° C. The mixture was heated while stirring under N2 for 1 hour. At that time, TLC (CH2Cl2) showed no remaining starting material. The mixture was removed from the heating bath, allowed to cool to room temperature, and diluted with H2O. Upon the addition of heptane, a solid precipitated. The solid was collected, washed with heptane and H2O, and dried in vacuo (0.1 mm) at 85° C. overnight to provide pure product, mp of 137°-138° C., homogeneous by TLC [silica, 1:1 CH3OH:EtOAc, Rf=0.67]. The IR (CHCl3), NMR (CDCl3) and Mass Spectrum (M+ =299, EI, 70 eV) were consistent with the structure. The yield was 2.603 g (8.70 mmol, 59.47%).

reactant | 3-chloro-4,5-dihydronaphth[1,2-c]isoxazole | 14.63 mmol, 3.0 g | ClC1=C2C(=NO1)C1=CC=CC=C1CC2 | C11H8ClNO
reactant | 1-(2-hydroxyethyl)-piperazine | 146.3 mmol, 17.95 ml | OCCN1CCNCC1 | C6H14N2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | CH3OH | CO | CH4O
solvent | N-methlypyrrolidinone | 18 ml | CN1C(CCC1)=O | C5H9NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-(2-Hydroxyethyl)-1-piperazinyl)-4,5-dihydronaphth[1,2-c]isoxazole | OCCN1CCN(CC1)C1=C2C(=NO1)C1=CC=CC=C1CC2 | C17H21N3O2
